US05726165
n-Hexylphosphinic acid, n-butyl ester
The title compound was prepared from n-hexylphosphinic acid and n-butanol according the the method described in Procedure 43. The compound was used without further purification.

reactant | n-hexylphosphinic acid | C(CCCCC)P(O)=O | C6H15O2P
solvent | n-butanol | C(CCC)O | C4H10O
product | n-Hexylphosphinic acid, n-butyl ester | C(CCCCC)P(OCCCC)=O | C10H23O2P
